US06313151B1
A. N4-(tert-butyloxycarbonyl)-3,4-pyridinediamine
A solution of 3,4-pyridinediamine (930 mg, 8.52 mmol) in tetrahydrofuran (20 mL) was treated with water (20 mL) and potassium carbonate (2.35 g, 17.0 mmol) followed by di-tert-butyl dicarbonate (1.86 g, 8.52 mmol). After 0.75 hr, the mixture was poured into a mixture of ethyl acetate and water. The aqueous layer was saturated with sodium chloride and extracted several times with ethyl acetate. The combined organic extracts were washed with saturated sodium chloride solution, dried (magnesium sulfate), and filtered. Concentration in vacuo and recrystallization from hexanes/ethyl acetate yielded 950 mg (53%) of the title compound.

reactant | 3,4-pyridinediamine | 8.52 mmol, 930 mg | N1=CC(=C(C=C1)N)N | C5H7N3
reactant | potassium carbonate | 17.0 mmol, 2.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 8.52 mmol, 1.86 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | N4-(tert-butyloxycarbonyl)-3,4-pyridinediamine | 950 mg, 53% | C(C)(C)(C)OC(=O)NC1=C(C=NC=C1)N | C10H15N3O2
